US07547691B2
4-(3-Aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester (261 mg, 1.07 mmol) is added to a stirred suspension of 4-(benzo[b]thiophen-2-yl)-2-chloro-5-methyl-pyrimidine (140 mg, 0.537 mmol) and diisopropylethylamine (140 μL, 0.805 mmol) in anhydrous 1,4-dioxane (3.5 mL) at ambient temperature under nitrogen. The resultant mixture is heated in an oil bath at 95° C. for 36 hours. At ambient temperature the mixture is concentrated and chromatographed on silica gel, eluting with 2 M NH3/CH3OH in dichloromethane 0-6%, to give 4-{3-[4-(benzo[b]thiophen-2-yl)-5-methyl-pyrimidin-2-yl]-amino-propyl}-piperazine-1-carboxylic acid tert-butyl ester as a white solid (178 mg, 70% yield).

reactant | 4-(3-Aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.07 mmol, 261 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN | C12H25N3O2
reactant | 4-(benzo[b]thiophen-2-yl)-2-chloro-5-methyl-pyrimidine | 0.537 mmol, 140 mg | S1C2=C(C=C1C1=NC(=NC=C1C)Cl)C=CC=C2 | C13H9ClN2S
reactant | diisopropylethylamine | 0.805 mmol, 140 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
product | 4-{3-[4-(benzo[b]thiophen-2-yl)-5-methyl-pyrimidin-2-yl]-amino-propyl}-piperazine-1-carboxylic acid tert-butyl ester | 178 mg, 70% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC(C1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2)C)N | C25H33N5O2S
